US05719166
c. Ethyl 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate
A suspension of (9RS,10RS)-2-chloro-9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid (7.50 g, 27.7 mmol), prepared as described in Example 1j, in toluene (75 mL) was treated with thionyl chloride (4.12 g, 34.6 mmol) and N,N-dimethylformamide (2 drops). The mixture was heated to reflux for 3 h, then was cooled to room temperature and treated with ethyl isonipecotate (10.88 g, 69.25 mmol). The resulting thick slurry was stirred at room temperature for 16 h, then was poured into 1N hydrochloric acid (100 mL) and extracted with ethyl acetate (3×100 mL). The organic extracts were washed sequentially with 1N hydrochloric acid (100 mL), 10% aqueous sodium bicarbonate (100 mL) and brine (100 ml), combined, dried (MgSO4), filtered and evaporated to leave an amber oil which solidified on standing. The crystalline product was triturated with hexane (300 mL) and ether (25 mL), isolated by filtration, washed with hexane/ether (10:1, 50 mL) and air dried to afford the title compound (9.83 g, 23.9 mmol, 87%) as a white solid. 1H NMR (d6-DMSO): δ7.5 (br, 1H, H--C(1)), 7.35 (m, 3H), 7.01 (m, 3H), 4.5 (br, 1H), 4.43 (s, 1H, H--C(10)), 4.08 (q, J=7.0 Hz, 2H, CH2CH3), 3.6 (br, 1H), 3.2-2.55 (brm, 6H), 2.05-1.45 (brm, 5H), 1.19 (t, J=7.0 Hz, 3H, CH2CH3).

reactant | (9RS,10RS)-2-chloro-9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid | 27.7 mmol, 7.50 g | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)C(=O)O | C16H11ClO2
reactant | thionyl chloride | 34.6 mmol, 4.12 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl isonipecotate | 69.25 mmol, 10.88 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | Ethyl 1-((9RS,10RS)-2-chloro-9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate | 23.9 mmol, 9.83 g, 87% | ClC1=CC=2C3(C4=CC=CC=C4C(C2C=C1)C3)C(=O)N3CCC(CC3)C(=O)OCC | C24H24ClNO3
